US04124586
8 g 3-amino-rifamycin S were dissolved in 30 ml diglyme and the solution was then added with 2 g sodium ascorbate dissolved in 5 ml water. The solution of 3-amino-rifamycin SV thus obtained was heated to 50° C. and then added with 4.4 g 4-carboxybenzoic aldehyde. The solution was stirred at this temperature for 15 minutes and then after adding 30 ml chloroform was again stirred at 50° C. for 4 hours. The reaction mixture was then added with 300 ml chloroform, washed with an aqueous solution of sodium metabisulphite and then with water.

reactant | 3-amino-rifamycin S | 8 g | C[C@H]1/C=C/C=C(\C(=O)NC2=C(C(=O)C3=C4C(=C(C(=C3C2=O)O)C)O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]1O)C)O)C)OC(=O)C)C)OC)C)N)/C | C37H46N2O12
reactant | sodium ascorbate | 2 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | diglyme | 30 ml | COCCOCCOC | C6H14O3
solvent | water | 5 ml | O | H2O
product | 3-amino-rifamycin | C[C@H]1/C=C\C=C(/C(=O)NC2=C(C3=C(C4=C(C(=C3O)C)O[C@@](C4=O)(O/C=C\[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]1O)C)O)C)OC(=O)C)C)OC)C)C(=C2N)O)O)\C | C37H48N2O12
